* demu_2_4


.subckt inv_2 2 3 4 
*.CELL_INFO DEVICE_LEVELED 1-pmos
M1 3 2 4 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.0000 $Y=0.0420 
.ends inv_2

.subckt and_2 3 5 6 
*.CELL_INFO DEVICE_LEVELED 1-pmos 1-nmos
M1 5 3 6 nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.6125 $Y=0.3135 
.ends and_2

.subckt demu_2_4 2 3 A0 A1 GND! OUT1 OUT2 OUT3 OUT0 VDD! 
M1 13 A0 22 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.8690 $Y=0.0955 
M2 22 A1 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.8270 $Y=0.1442 
M3 12 3 20 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.6170 $Y=0.0955 
M4 20 A1 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.5750 $Y=0.1442 
M5 11 A0 18 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.3650 $Y=0.0955 
M6 18 2 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.3230 $Y=0.1442 
M7 14 3 23 nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.1130 $Y=0.0955 
M8 23 2 GND! nmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=0.0710 $Y=0.1438 
M9 OUT3 13 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.9950 $Y=0.1660 
M10 13 A0 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.9110 $Y=0.1913 
M11 13 A1 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.8270 $Y=0.1442 
M12 OUT2 12 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.7430 $Y=0.1660 
M13 12 3 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.6590 $Y=0.1913 
M14 12 A1 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.5750 $Y=0.1442 
M15 OUT1 11 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.4910 $Y=0.1660 
M16 11 A0 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.4070 $Y=0.1913 
M17 11 2 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.3230 $Y=0.1442 
M18 OUT0 14 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.2390 $Y=0.1660 
M19 VDD! A1 2 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.1550 $Y=0.3235 
M20 14 3 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.1550 $Y=0.1908 
M21 VDD! A0 3 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.0710 $Y=0.3235 
M22 14 2 VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=5.67e-16 PDEO=1.17e-07 
+    PSEO=1.17e-07 $X=0.0710 $Y=0.1438 
X3AADC2D31 11 OUT1 GND! and_2 $T=-0.1215 -0.1475 0 0 
X3AADC2D32 12 OUT2 GND! and_2 $T=0.1305 -0.1475 0 0 
X3AADC2D33 13 OUT3 GND! and_2 $T=0.3825 -0.1475 0 0 
X3AADC2D34 14 OUT0 GND! and_2 $T=-0.3735 -0.1475 0 0 
X3AADC2D35 A1 2 GND! inv_2 $T=0.1550 0.3655 0 180 
X3AADC2D36 A0 3 GND! inv_2 $T=0.0710 0.3655 0 180 
.ends demu_2_4

