* nor_5


.subckt nor_5 B Z GND! VDD! A C 10 11 
M1 Z B GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.1210 $Y=-0.0025 
M2 Z C GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=0.0370 $Y=0.0470 
M3 Z A GND! nmos W=2.1e-08 L=1.5e-08 NFIN=2 ADEO=2.835e-16 ASEO=2.835e-16 PDEO=5.85e-08 
+    PSEO=5.85e-08 $X=-0.0470 $Y=0.0470 
M4 Z C 11 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=5.67e-16 ASEO=1.134e-15 PDEO=1.17e-07 
+    PSEO=2.34e-07 $X=0.0370 $Y=0.0470 
M5 11 B 10 pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=1.134e-15 PDEO=2.34e-07 
+    PSEO=2.34e-07 $X=-0.0050 $Y=0.0720 
M6 10 A VDD! pmos W=2.1e-08 L=1.5e-08 NFIN=4 ADEO=1.134e-15 ASEO=5.67e-16 PDEO=2.34e-07 
+    PSEO=1.17e-07 $X=-0.0470 $Y=0.0470 
.ends nor_5

